US08809376B2
{(S)-6-[(R)-4-(4-Acetoxy-benzyl)-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
The title compound is prepared from {(S)-6-[(R)-4-bromo-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester and 4-acetoxy-benzyl bromide following a procedure analogous to that described for Intermediate 7. LC (method 8): tR=1.27 min; Mass spectrum (ESI+): m/z=541 [M+H]+.

reactant | {(S)-6-[(R)-4-bromo-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)Br)=O | C21H18BrF3O4
reactant | 4-acetoxy-benzyl bromide | C(C)(=O)OC1=CC=C(CBr)C=C1 | C9H9BrO2
product | {(S)-6-[(R)-4-(4-Acetoxy-benzyl)-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)CC2=CC=C(C=C2)OC(C)=O)=O | C30H27F3O6
